US08648202B2
Bis(pentafluoroethyl)phosphine
0.3 g (1.0 mmol) of bis(pentafluoroethyl)phosphinous acid chloride, (C2F5)2PCl, obtainable in accordance with Example 2, is condensed into a degassed solution of 0.61 g (2.0 mmol) of tributyltin hydride, (n-C4H9)3SnH, in 1,6-dibromohexane. The mixture is stirred at room temperature for one hour, and the volatile compounds are subsequently removed under dynamic vacuum conditions. Three cold traps are used: −30° C., −78° C. and −196° C. The cold trap at −196° C. contains a colourless liquid, bis(pentafluoroethyl)phosphine, (C2F5)2PH. The compound is stable at room temperature under inert-gas conditions.

reactant | bis(pentafluoroethyl)phosphinous acid chloride | 1.0 mmol, 0.3 g | FC(C(F)(F)F)(F)P(C(C(F)(F)F)(F)F)Cl | C4ClF10P
reactant | (C2F5)2PCl | P(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)Cl | C4ClF10P
reactant | tributyltin hydride | 2.0 mmol, 0.61 g | C(CCC)[SnH](CCCC)CCCC
reactant | (n-C4H9)3SnH | [SnH](CCCC)(CCCC)CCCC
solvent | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
product | Bis(pentafluoroethyl)phosphine | FC(C(F)(F)F)(F)PC(C(F)(F)F)(F)F | C4HF10P
